Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
post-arrest
 
Major Surgical or Invasive Procedure:
coronary angiogram, PCI DESx2 ___
 
History of Present Illness:
___ YO M PMH HTN, T2DM, and concern for OSA, who presents status
post cardiac arrest with ROSC. 

Patient was in his usual state of health, participating in 
skiing
on the slopes. He last remembers walking toward the ski lift.
Reportedly he lost consciousness, had immediate bystander CPR
lasting < 5 min, AED was placed and delivered one shock with
ROSC. He was transferred to an OSH with a negative trauma work 
up
(CT head/chest), and was then transferred to ___ for further
work up. while skiing, bystander CPR < 5 min, AED shock, got
ROSC, tx'd ___. negative trauma work up. He
regained consciousness in the ambulance and doesn't recall any
interval events. Of note, he recalls that approx. 20 min prior 
to
his loss of consciousness, he remembers going over a ski bump,
and upon landing had his knees hit his chest and feeling briefly
as if the wind was knocked out of him. 

In the ED he was oriented x3, following all commands, without 
any
neurologic deficits. His trauma work up at ___ was reportedly
negative. He received 2L of IVF in the ED. 

Of note, he began seeing Dr. ___ cardiology in ___ 
after
2 presentations of chest pressure resulting in ED visits. He had
an ETT echo ___, without concern for ischemic lesion. He
attributes his symptoms at that time to stress associated with
his job; he has since changed jobs with decreased levels of
stress and has not had symptoms of chest pain for over a year. 
In
addition he notes he has had increased activity (skiing
___, 2.5 hrs each time), without symptoms such as pain or
shortness of breath. He notes improvement in his recent blood
pressures but worsening of his A1c. He also notes that he had a
recent take-home sleep study performed at the urging of Dr.
___ recalls the results showing hypoxemia and many
episodes of apnea, but has not yet discussed these results (has
appointment with Dr. ___ in ___.

In the ED,  
 - Initial vitals were: T 97.9 HR 98 BP 136/86 RR 18 O2 96% RA 
 - Exam notable for: A&Ox3
 - Labs notable for:  
1) WBC 13.7, Hgb 15.2, Plt 321
2) Na 137, K 4.6, Cr 0.7, HCO3 19, AG 19
3) Trop < 0.01
4) TSH 1.6
5) negative serum ___

 - Studies notable for: CT head/chest at OSH (on lifeimage)  
 - Patient was given: 2L IVF, ___ 324 mg, Atorva 80 mg, Tylenol
___ mg
 - Cardiology was consulted: plan for cath in AM
 
On arrival to the CCU, patient is feeling well. States he feels
very lucky he did not end up going back up the ski lift. He 
feels
slightly sore over his chest, but otherwise without pain or
shortness of breath. He denies any recent history of chest pain
or dyspnea on exertion, able to ski multiple times a week. 
States
he still hasn't properly processed everything that has happened
to him. 

 
Past Medical History:
1. Cardiac Risk Factors  
- HTN  
- T2DM  

2. Cardiac History  
- None

3. Other PMH  
- ?OSA
 
Social History:
___
Family History:
Father with atrial fibrillation, s/p ablation.
Mother with heart block. Neither with hx coronary artery 
disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 98.2, HR 89, BP 132/88, RR 21, O2 96%
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. 
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAMINATION:  
VS: 
24 HR Data (last updated ___ @ 506)
    Temp: 97.9 (Tm 98.6), BP: 123/80 (123-150/80-91), HR: 71
(71-84), RR: 18, O2 sat: 96% (95-99), O2 delivery: RA   

GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. pupils round
and equal.
NECK: JVP not appreciated.
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.   

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:10PM BLOOD WBC-13.7* RBC-5.55 Hgb-15.2 Hct-45.7 
MCV-82 MCH-27.4 MCHC-33.3 RDW-12.6 RDWSD-37.5 Plt ___
___ 08:10PM BLOOD Neuts-79.1* Lymphs-14.9* Monos-5.3 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-10.80* AbsLymp-2.04 
AbsMono-0.72 AbsEos-0.02* AbsBaso-0.04
___ 08:10PM BLOOD Glucose-187* UreaN-15 Creat-0.7 Na-137 
K-4.6 Cl-99 HCO3-19* AnGap-19*

PERTINENT/DISCHARGE LABS:
=========================
___ 08:10PM BLOOD cTropnT-<0.01
___ 05:14AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:14AM BLOOD %HbA1c-10.1* eAG-243*
___ 05:14AM BLOOD Triglyc-58 HDL-41 CHOL/HD-2.8 LDLcalc-62
___ 08:10PM BLOOD TSH-1.6
___ 08:10PM BLOOD ___ Acetmnp-NEG Tricycl-NEG
___ 07:15AM BLOOD WBC-7.5 RBC-4.87 Hgb-13.5* Hct-41.5 
MCV-85 MCH-27.7 MCHC-32.5 RDW-12.7 RDWSD-39.0 Plt ___
___ 07:55AM BLOOD Glucose-138* UreaN-12 Creat-0.6 Na-140 
K-4.1 Cl-102 HCO3-22 AnGap-16
___ 07:55AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.0

IMAGING REPORTS:
================
TTE ___:
Conclusions   
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy. Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
normal (LVEF>55%). Right ventricular chamber size is normal with 
normal free wall contractility. The aortic valve is not well 
seen. No aortic regurgitation is seen. No mitral regurgitation 
is seen. There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Emergent study. Normal biventricular systolic 
function. No major valvular disease seen. 

Left Heart Catheterization ___:
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is long without flow limiting stenosis.
* Left Anterior Descending
The LAD has a very proximal 90% stenosis and a mid 80% stenosis 
at the level of a moderate size D3.
* Circumflex
The Circumflex is small vessel without flow limiting stenosis.
The ___ Marginal is.
* Right Coronary Artery
The RCA is very large vessel without flow limiting stenosis.

Impressions:
Elevated left-side filling pressures.
90% proximal LAD succesfully treated with 1 DES
80% mid LAD succesfully treated with 1 DES.
Succesful OCT post-procedure showing good stent apposition.

MICROBIOLOGY:
=============
None

 
Brief Hospital Course:
Mr. ___ is a ___ YO M with PMH HTN, obesity, T2DM, HLD, and 
history of resolved chest discomfort with negative stress test, 
who presents post cardiac arrest, received AED w/ 1x shock and 
ROSC, brought in to OSH and transferred to ___ for further 
eval. He underwent coronary angiogram which showed LAD stenosis, 
s/p 2 DES. 

#CORONARIES: LAD ___ 90%, mid 80%, s/p 2 DES
#PUMP: EF >55%
#RHYTHM: NSR

ACUTE ISSUES: 
=============
#Post-cardiac arrest
#Coronary Artery Disease
Concerning for VFib/VT arrest, < 5 min bystander CPR, s/p shock 
with AED and apparent ROSC. TSH and tox screen wnl and negative, 
respectively. TTE was unremarkable for valve or wall motion 
abnl. Given multiple cardiac risk factors (HTN, T2DM, HLD, OSA) 
there was concern for ischemic etiology, although troponin here 
were negative x2 and no ischemic ST changes were seen on EKG. He 
underwent LHC ___, which showed ___ and mid LAD lesion, s/p 
2 DES. He was started on ___, metoprolol succinate 
50 mg QD and had his atorvastatin increased from 40 to 80 mg. 
Lisinopril was continued at his home dose of 40mg daily.

#Leukocytosis 
WBC 13.7 on admission, without fever or localizing signs of 
infection, and HDS. Likely in setting of stress of cardiac 
response. Downtrended without abx.

CHRONIC ISSUES: 
=============== 
#HTN. He remained relatively normotensive while inpatient, with 
systolics in the 130s-140s. He was discharged on his home 
regimen lisinopril 40 mg and metoprolol was added as above. Home 
amlodipine 5 mg QD was held upon discharge. Recommend to restart 
if blood pressure allows.

#HLD. Increased atorvastatin to 80 mg as above (home dose 40)

#T2DM
Last A1c ___ 9.8%. On re-check here, 10.1. He had his 
metformin held and was placed on an insulin sliding scale while 
inpatient. ___ was consulted. We restarted metformin 1g BID 
on the day of discharge, consulted nutrition for diabetic diet 
counseling, and set ___ follow up for SGLT2 or GLP1 
inhibitor consideration. He did not require insulin while 
inpatient.

#OSA
Recent diagnosis given recent take home sleep test. On O2 
monitoring while inpatient. Patient was scheduled for sleep 
appointment ___, with instructions to contact his 
insurance for same day CPAP set up. 

TRANSITIONAL ISSUES:
====================
[] Cardiac arrest / s/p ___ - patient started on 
Aspirin and ___. They should NOT be held given risk for 
in-stent thrombosis.
[] AVOID NSAIDs
[] Please monitor patient's BP and consider increase his 
antihypertensives back to his previous regimen.
[ ] Held home amlodipine 5 mg upon discharge. Restart pending 
outpatient blood pressures per PCP. 
[] Please ensure patient follows up with cardiology (Dr. ___ 
___ given his recent PCI.
[] ___ diabetes follow up for consideration of SGLT2 or GLP1 
inhibitor.
[] Please ensure patient receives CPAP machine at home and had 
follow up with sleep medicine on ___.

#CODE: FULL CODE
#CONTACT/HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Atorvastatin 40 mg PO QPM 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  ___ 90 mg PO BID to prevent stent thrombosis 
RX ___ [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until instructed to do so by MD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
POST CARDIAC ARREST
CORONARY ARTERY DISEASE

SECONDARY DIAGNOSIS
===================
HYPERTENSION
TYPE 2 DIABETES MELLITUS
HYPERLIPIDEMIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to care for you during your stay with us,

Why was I admitted to the hospital?
- You had a "cardiac arrest" at the ___. You were 
resuscitated with chest compressions and a shock to your heart, 
and eventually transferred to us here.

What happened while I was admitted?
- You had an ultrasound of your heart, which looked normal
- You had a procedure called a "cardiac catheterization", which 
took pictures of your heart and showed some blood vessels that 
were narrowed. You had "stents" placed to open them up.
- You were started on new medications because of your stent. 
These are medications necessary to prevent the stent from 
malfunctioning.

What should I do when I leave the hospital?
- Please continue taking your new medications as listed below. 
ALWAYS TAKE YOUR DAILY ASPIRIN AND YOUR TWICE DAILY ___. 
DO NOT TAKE NSAIDs (such as Ibuprofen, Naproxen, Aleve)
- Please follow up with your primary care, cardiologist, and 
___ as listed below
- Please return to the ED if you have any episodes of chest pain 
or chest discomfort.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___